US08017605B2
Step A: 3-nitro-5-(trifluoromethyl)pyridin-2-amine
To a solution of 5-(trifluoromethyl)pyridine-2-amine (1.1 g, 6.79 mmol) dissolved in sulfuric acid (20 mL) at room temperature was added nitric acid (0.475 g, 6.79 mmol). After heating to 70° C. for 1 hr, the reaction mixture was cooled to room temperature and diluted with EtOAc and ice. The organic layer was separated, washed with sat. sodium bicarbonate aq. and brine, dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure and chromatographed on silica gel eluting with a gradient solvent mixture (5% MeOH-DCM to 15% MeOH-DCM) to give the title compound (680 mg). LC/MS: m/z 208(M+H). 1H-NMR (500 MHz, CD3OD): δ 8.60 (d, 1H), 8.67 (d, 1H).

reactant | 5-(trifluoromethyl)pyridine-2-amine | 6.79 mmol, 1.1 g | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
reactant | nitric acid | 6.79 mmol, 0.475 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-nitro-5-(trifluoromethyl)pyridin-2-amine | 680 mg | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)N | C6H4F3N3O2
